US04562199
A mixture of imidazole (0.25 g, 3.67 mmol), potassium tert-butoxide (0.42 g, 3.75 mmol), ethyl 3-(3-bromo-4-bromomethylphenyl)prop-2-enoate (1.29 g, 3.7 mmol) and 18-crown-6 (0.1 g) in dry ether was stirred at room temperature for 72 h. Water (5 ml) was then added, and the aqueous layer was extracted with ether (3×50 ml). The ether solutions were combined, dried (MgSO4) and then concentrated to afford a pale yellow oil. The oil was `flash` chromatographed using chloroform/methanol 9:1 as eluant. The product fractions were combined, dried (MgSO4) and concentrated to afford ethyl 3-[3-bromo-4-(imidazol-1-ylmethyl)phenyl]prop-2-enoate as a white solid. NMR data was consistent with the assigned structure.

reactant | imidazole | 3.67 mmol, 0.25 g | N1C=NC=C1 | C3H4N2
reactant | potassium tert-butoxide | 3.75 mmol, 0.42 g | CC(C)([O-])C.[K+]
reactant | ethyl 3-(3-bromo-4-bromomethylphenyl)prop-2-enoate | 3.7 mmol, 1.29 g | BrC=1C=C(C=CC1CBr)C=CC(=O)OCC | C12H12Br2O2
reactant | 18-crown-6 | 0.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | ether | CCOCC | C4H10O
solvent | Water | 5 ml | O | H2O
product | ethyl 3-[3-bromo-4-(imidazol-1-ylmethyl)phenyl]prop-2-enoate | BrC=1C=C(C=CC1CN1C=NC=C1)C=CC(=O)OCC | C15H15BrN2O2
